2166-01-22 05:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2166-1-21**] 07:58 PM
 DIALYSIS CATHETER - START [**2166-1-21**] 08:27 PM
 ARTERIAL LINE - START [**2166-1-21**] 09:40 PM
 EKG - At [**2166-1-22**] 12:19 AM
   ? ST elevation
 NASAL SWAB - At [**2166-1-22**] 02:31 AM
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-1-22**] 05:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**67**] AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 93 (85 - 128) bpm
   BP: 92/51(64) {92/48(24) - 142/71(93)} mmHg
   RR: 40 (10 - 40) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 125.5 kg (admission): 125.5 kg
             Total In:
                                                                  6,307 mL
                                                                  2,139 mL
   PO:
             TF:
   IVF:
                                                                  1,307 mL
                                                                  2,139 mL
   Blood products:
   Total out:
                                                                  1,180 mL
                                                                  1,890 mL
   Urine:
                                                                  1,180 mL
                                                                  1,890 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,127 mL
                                                                    249 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: 7.42/33/139/19/-1
   Ve: 11.8 L/min
   PaO2 / FiO2: 348
   Physical Examination
   Intubated, sedated
   Has myoclonic twitching / tremors which can be provoked by resistance
   stretching
   S1 S2 no murmur
   CTA
   soft NT ND abdomen
   Labs / Radiology
   374 K/uL
   9.4 g/dL
   87 mg/dL
   2.4 mg/dL
   19 mEq/L
   4.1 mEq/L
   54 mg/dL
   108 mEq/L
   135 mEq/L
   27.0 %
   9.5 K/uL
        [image002.jpg]
   Lithium 3.0 -> CVVH -> 1.8
                             [**2166-1-21**]  10:47 PM
                             [**2166-1-21**]  10:53 PM
                             [**2166-1-22**]  02:36 AM
                             [**2166-1-22**]  02:51 AM
                             [**2166-1-22**]  05:12 AM
   WBC
   11.0
   9.5
   Hct
   28.6
   27.0
   Plt
   315
   374
   Cr
   4.0
   2.7
   2.4
   TCO2
   20
   22
   Glucose
   159
   91
   87
   Other labs: PT / PTT / INR:11.7/24.9/1.0, CK / CKMB / Troponin-T:42//,
   ALT / AST:[**11-16**], Alk Phos / T Bili:83/0.3, Lactic Acid:0.7 mmol/L,
   LDH:126 IU/L, Ca++:7.3 mg/dL, Mg++:1.5 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   43M h/o schizophrenia, HTN, DM, presented with hypotension, ARF,
   elevated Lithium levels.
   # Lithium toxicity: Has clinical picture c/w (nausea, hypotension,
   tremors), lab values confirm. Though level dropped after CVVH it will
   rebound rise again once the ion redistributes freely through fluid
   compartments.
   - HD today
   - Li+ level immediately afterwards, and again at 6 hours after
   - Likely will need 2 or 3 more HD sessions to clear
   - Hold psych meds with cardiac side effects given the cardiac toxicity
   that can be associated with Li+
   # Acute renal failure: Whether a toxic Lithium dose boxed the kidneys,
   or kidney failure of another etiology led to increased Li+ levels, will
   be difficult to [**Last Name (un) **] out.
   - F/u renal recs
   - Trend lytes, Creatinine
   - Urine eos, urine lytes
   - renal U/S
   # Schizophrenia: Patient a Section 12 from OSH.
   - When well will need 1:1 sitter
   - Psych c/s to evaluate further that this was not an intentional o.d.
   (unlikely; of note, normal EKGs argue against multiple ingestions).
   # DM: Hold Metformin.
   - SSI
   ICU Care
   Nutrition: NPO
   Glycemic Control:  SSI
   Lines:
   Multi Lumen - [**2166-1-21**] 07:58 PM
   18 Gauge - [**2166-1-21**] 08:00 PM
   Dialysis Catheter - [**2166-1-21**] 08:27 PM
   Arterial Line - [**2166-1-21**] 09:40 PM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer:
   VAP:  Elevate HOB
   Comments:
   Communication:  Comments: No known family. Needs SW consult
   Code status: Full
   Disposition: ICU for now

2166-01-23 06:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2166-1-22**] 09:00 AM
 EKG - At [**2166-1-22**] 09:15 AM
 STOOL CULTURE - At [**2166-1-22**] 01:53 PM
 SPUTUM CULTURE - At [**2166-1-22**] 08:38 PM
 URINE CULTURE - At [**2166-1-22**] 08:39 PM
 PAN CULTURE - At [**2166-1-22**] 11:00 PM
   - Had prolonged HD
   - Hold psych meds with cardiac side effects given the cardiac toxicity
   that can be associated with Li+
   - 2100 Li level: 0.7 -> 0300 level 0.8
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1.5 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2166-1-22**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2166-1-22**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-1-23**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**67**] AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.5
C (99.5
   HR: 87 (87 - 104) bpm
   BP: 98/51(62) {98/51(62) - 98/51(62)} mmHg
   RR: 15 (15 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 129 kg (admission): 125.5 kg
   Height: 72 Inch
    CVP: 12 (10 - 18)mmHg
   Total In:
                                                                  8,315 mL
                                                                  1,706 mL
   PO:
   TF:
                                                                     97 mL
   IVF:
                                                                  8,158 mL
                                                                  1,706 mL
   Blood products:
   Total out:
                                                                  5,170 mL
                                                                  1,020 mL
   Urine:
                                                                  4,970 mL
                                                                  1,020 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  3,145 mL
                                                                    686 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 15
   RR (Spontaneous): 1
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 8
   PIP: 27 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: 7.56/40/160/29/13
   Ve: 9.3 L/min
   PaO2 / FiO2: 400
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), [**1-11**]
   systolic murmur
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   300 K/uL
   9.6 g/dL
   134 mg/dL
   0.8 mg/dL
   29 mEq/L
   4.1 mEq/L
   7 mg/dL
   103 mEq/L
   137 mEq/L
   28.1 %
   12.5 K/uL
        [image002.jpg]
                             [**2166-1-21**]  10:53 PM
                             [**2166-1-22**]  02:36 AM
                             [**2166-1-22**]  02:51 AM
                             [**2166-1-22**]  05:12 AM
                             [**2166-1-22**]  11:32 AM
                             [**2166-1-22**]  01:16 PM
                             [**2166-1-22**]  04:11 PM
                             [**2166-1-22**]  08:51 PM
                             [**2166-1-22**]  09:06 PM
                             [**2166-1-23**]  03:20 AM
   WBC
   11.0
   9.5
   12.5
   Hct
   28.6
   27.0
   28.1
   Plt
   [**Telephone/Fax (3) 11030**]
   Cr
   2.7
   2.4
   0.6
   0.8
   TropT
   <0.01
   TCO2
   20
   22
   29
   33
   35
   37
   Glucose
   159
   91
   87
   127
   134
   Other labs: PT / PTT / INR:13.1/27.1/1.1, CK / CKMB /
   Troponin-T:42//<0.01, ALT / AST:[**11-16**], Alk Phos / T Bili:83/0.3, Lactic
   Acid:1.0 mmol/L, LDH:126 IU/L, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:2.5
   mg/dL
   Imaging: [**1-22**] Renal U/S: No evidence of stones, masses or
   hydronephrosis.
   [**1-22**] CXR (Prelim): Retrocardiac opacity with airbronchograms is grossly
   stable and may be pna, aspiration or atx. Lines at tubes are grossly
   stable.
   Microbiology: [**1-22**] BCx: Pending
   [**1-22**] UCx: Pending
   [**1-22**] Sputum: >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   MULTIPLE ORGANISMS CONSISTENT WITH
   OROPHARYNGEAL FLORA.
   Assessment and Plan
   43 year old male with schizophrenia, HTN, DM who presents with
   hypotension, ARF and lithium toxicity
   .
   # Lithium toxicity: S/p prolonged HD yesterday for lithium clearance.
   Levels trended down to within normal limits x 2.
   - Monitor for signs of lithium toxicity including nausea, vomiting,
   diarrhea and hypotension
   - Continue to follow lithium levels to monitor for rebound toxicity as
   intra/extracellular levels equilibrate
   - further HD per serial lithium levels
   - Monitor serum sodium, for DI
   # Acute renal failure: S/p HD yesterday, with renal function
   significantly improved. Most likely prerenal volume depletion resulted
   in acute renal failure and predisposed patient to lithium nephritis.
   FeNa 1.3% FeUrea 24%, c/w perfusion-related kidney injury. U/A not c/w
   ATN, no eosinophils to suggest AIN. U/S negative for obstructive
   uropathy.
   - Further HD sessions PRN depending on lithium levels
   - Trend lytes, lithium level and creatinine closely
   - Hold all diuretics, ACE (home meds)
   .
   # Fever: Temp to 100.6 overnight. CXR concerning for retrocardiac
   opacity, potentially PNA. Also concern for ongoing viral process given
   GI symptoms. New leukocytosis this morning
   - Culture blood, urine, sputum; follow-up outstanding cultures
   - Empiric vanco & cefepime (day 1 = [**1-23**]) for VAP
 started
   Ciprofloxacin this morning for broader Pseudomonas coverage. If
   cultures negative by [**1-27**], will narrow coverage.
   - Daily CXR
   .
   # Nausea, vomiting: Could be gastroenteritis versus lithium toxicity.
   - Monitor symptoms now that lithium dialyzed
   - Replete volume as needed
   .
   # Hypotension: Most likely secondary to volume depletion and lithium
   toxicity. Temporarily on phenylephrine yesterday during HD, but off
   since yesterday evening.
   - Monitor BP
   - Hold outpt BP meds, detrol
   .
   # Schizophrenia: Most likely lithium toxicity secondary to ARF and not
   purposeful overdose.
   - Discuss with outpatient pysch if overdose could have been purposeful
   - Hold Clozaril, Benztropine, Haldol until discuss with pharm and pysch
   whether can re-start
   - Follow up on Psych recs: will likely restart Clozaril
   .
   # Diabetes: Hold metformin.
   - Insulin sliding scale when in house.
   .
   # Urinary Incontinence: Hold detrol while hypotensive.
   .
   # Hyperlipidemia: Holding Lipitor until LFTs normal. Normal today so
   can consider restarting when can take PO.
   .
   # FEN: electrolytes repletion per renal, NPO
   # Prophylaxis: Subcutaneous heparin
   # Access: IJ, HD line, radial a-line, PIV x2
   # Communication: Family (contact information on white board in room)
   # Code:  Full - presumed.
   # Disposition: ICU pending clinical improvement
 possible extubation
   today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2166-1-21**] 07:58 PM
   18 Gauge - [**2166-1-21**] 08:00 PM
   Dialysis Catheter - [**2166-1-21**] 08:27 PM
   Arterial Line - [**2166-1-21**] 09:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2166-01-24 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Extubated today, started nebs for wheeziness
   - Asking to defer signing ICU consent to tomorrow
   - Mini BAL: GS neg, Cx NGTD
   - Sputum: 2+ GPC in p/c/clusters, Cx NGTD
   - Psych Recs: Hold all meds for now
   - Renal Recs: No HD for now
   - Tox Recs: Continue IVF
   - Lithium 0.9, 0.8, 0.9, 0.8
   - ?Still need to touch base with mother
   - Tachypneic to 30-40s, ABGs very normal (underlying metabolic
   acidosis? no gap), CXR slightly volume overloaded so decreased IVF rate
   to 150cc/hr for overnight
   History obtained from Patient
   Allergies:
   History obtained from Patient
   Last dose of Antibiotics:
   Cefipime - [**2166-1-23**] 07:36 AM
   Vancomycin - [**2166-1-23**] 08:58 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2166-1-24**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-1-24**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**67**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 104 (89 - 104) bpm
   BP: 119/70(88) {93/56(72) - 139/91(108)} mmHg
   RR: 26 (17 - 38) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 131.1 kg (admission): 125.5 kg
   Height: 72 Inch
    CVP: 4 (2 - 16)mmHg
   Total In:
                                                                  6,376 mL
                                                                  1,342 mL
   PO:
   TF:
   IVF:
                                                                  6,376 mL
                                                                  1,342 mL
   Blood products:
   Total out:
                                                                  3,155 mL
                                                                    960 mL
   Urine:
                                                                  3,155 mL
                                                                    960 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,221 mL
                                                                    382 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 327 (327 - 446) mL
   PS : 5 cmH2O
   RR (Set): 8
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 9 cmH2O
   SpO2: 99%
   ABG: 7.38/41/107/21/0
   Ve: 9.5 L/min
   PaO2 / FiO2: 268
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   Expiratory, Diminished: bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   285 K/uL
   9.4 g/dL
   91 mg/dL
   0.8 mg/dL
   21 mEq/L
   4.3 mEq/L
   8 mg/dL
   112 mEq/L
   140 mEq/L
   28.3 %
   11.9 K/uL
        [image002.jpg]
                             [**2166-1-22**]  11:32 AM
                             [**2166-1-22**]  01:16 PM
                             [**2166-1-22**]  04:11 PM
                             [**2166-1-22**]  08:51 PM
                             [**2166-1-22**]  09:06 PM
                             [**2166-1-23**]  03:20 AM
                             [**2166-1-23**]  09:51 AM
                             [**2166-1-23**]  02:39 PM
                             [**2166-1-24**]  12:36 AM
                             [**2166-1-24**]  04:03 AM
   WBC
   12.5
   13.1
   11.9
   Hct
   28.1
   26.9
   28.3
   Plt
   300
   287
   285
   Cr
   0.6
   0.8
   0.8
   0.8
   TCO2
   29
   33
   35
   37
   29
   25
   Glucose
   127
   134
   110
   91
   Other labs: PT / PTT / INR:13.1/27.1/1.1, CK / CKMB /
   Troponin-T:42//<0.01, ALT / AST:[**11-16**], Alk Phos / T Bili:83/0.3, Lactic
   Acid:0.5 mmol/L, LDH:126 IU/L, Ca++:8.4 mg/dL, Mg++:1.6 mg/dL, PO4:2.1
   mg/dL
   Imaging: [**1-23**] AM CXR: The ET tube tip is approximately 5 cm above the
   carina, slightly impinging the left tracheal wall. There is no change
   in the position of the NG tube and two central venous lines. The
   cardiomediastinal silhouette is stable. There is slight improvement in
   the basal aeration in particular on the left. There is still present
   bibasal atelectasis. No appreciable pleural effusion is noted.  Partial
   atelectasis of right middle lobe has developed in the interim.
   [**1-23**] PM CXR: Report pending
   [**1-22**] Renal U/S: No evidence of stones, masses or hydronephrosis.
   Microbiology: [**1-23**] Mini-BAL: 3+ PMNs, no microorganisms
   [**1-23**] Endotracheal sputum:>25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD): GPC . IN PAIRS, CHAINS, AND CLUSTERS.
   [**1-22**] BCx: Pending x2
   [**1-22**] UCx: Negative
   Assessment and Plan
   43 year old male with schizophrenia, HTN, DM who presents with
   hypotension, ARF and lithium toxicity
   .
   # Lithium toxicity: S/p prolonged HD yesterday for lithium clearance.
   Levels trended down to within normal limits x 2.
   - Monitor for signs of lithium toxicity including nausea, vomiting,
   diarrhea and hypotension
   - Continue to follow lithium levels to monitor for rebound toxicity as
   intra/extracellular levels equilibrate
   - further HD per serial lithium levels
   - Monitor serum sodium, for DI
   # Acute renal failure: S/p HD yesterday, with renal function
   significantly improved. Most likely prerenal volume depletion resulted
   in acute renal failure and predisposed patient to lithium nephritis.
   FeNa 1.3% FeUrea 24%, c/w perfusion-related kidney injury. U/A not c/w
   ATN, no eosinophils to suggest AIN. U/S negative for obstructive
   uropathy.
   - Further HD sessions PRN depending on lithium levels
   - Trend lytes, lithium level and creatinine closely
   - Hold all diuretics, ACE (home meds)
   .
   # Fever: Temp to 100.6 overnight. CXR concerning for retrocardiac
   opacity, potentially PNA. Also concern for ongoing viral process given
   GI symptoms. New leukocytosis this morning
   - Culture blood, urine, sputum; follow-up outstanding cultures
   - Empiric vanco & cefepime (day 1 = [**1-23**]) for VAP
 started
   Ciprofloxacin this morning for broader Pseudomonas coverage. If
   cultures negative by [**1-27**], will narrow coverage.
   - Daily CXR
   .
   # Nausea, vomiting: Could be gastroenteritis versus lithium toxicity.
   - Monitor symptoms now that lithium dialyzed
   - Replete volume as needed
   .
   # Hypotension: Most likely secondary to volume depletion and lithium
   toxicity. Temporarily on phenylephrine yesterday during HD, but off
   since yesterday evening.
   - Monitor BP
   - Hold outpt BP meds, detrol
   .
   # Schizophrenia: Most likely lithium toxicity secondary to ARF and not
   purposeful overdose.
   - Discuss with outpatient pysch if overdose could have been purposeful
   - Hold Clozaril, Benztropine, Haldol until discuss with pharm and pysch
   whether can re-start
   - Follow up on Psych recs: will likely restart Clozaril
   .
   # Diabetes: Hold metformin.
   - Insulin sliding scale when in house.
   .
   # Urinary Incontinence: Hold detrol while hypotensive.
   .
   # Hyperlipidemia: Holding Lipitor until LFTs normal. Normal today so
   can consider restarting when can take PO.
   .
   # FEN: electrolytes repletion per renal, NPO
   # Prophylaxis: Subcutaneous heparin
   # Access: Left IJ, R IJ HD line, radial a-line, PIV x2
   # Communication: Family (contact information on white board in room)
   # Code:  Full - presumed.
   # Disposition: ICU pending clinical improvement
 possible extubation
   today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2166-1-21**] 07:58 PM
   18 Gauge - [**2166-1-21**] 08:00 PM
   Dialysis Catheter - [**2166-1-21**] 08:27 PM
   Arterial Line - [**2166-1-21**] 09:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2166-01-24 10:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Extubated today, started nebs for wheeziness
   - Asking to defer signing ICU consent to tomorrow
   - Mini BAL: GS neg, Cx NGTD
   - Sputum: 2+ GPC in p/c/clusters, Cx NGTD
   - Psych Recs: Hold all meds for now
   - Renal Recs: No HD for now
   - Tox Recs: Continue IVF
   - Lithium 0.9, 0.8, 0.9, 0.8
   - ?Still need to touch base with mother
   - Tachypneic to 30-40s, ABGs very normal (underlying metabolic
   acidosis? no gap), CXR slightly volume overloaded so decreased IVF rate
   to 150cc/hr for overnight
   History obtained from Patient
   Allergies:
   History obtained from Patient
   Last dose of Antibiotics:
   Cefipime - [**2166-1-23**] 07:36 AM
   Vancomycin - [**2166-1-23**] 08:58 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2166-1-24**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-1-24**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**67**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 104 (89 - 104) bpm
   BP: 119/70(88) {93/56(72) - 139/91(108)} mmHg
   RR: 26 (17 - 38) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 131.1 kg (admission): 125.5 kg
   Height: 72 Inch
    CVP: 4 (2 - 16)mmHg
   Total In:
                                                                  6,376 mL
                                                                  1,342 mL
   PO:
   TF:
   IVF:
                                                                  6,376 mL
                                                                  1,342 mL
   Blood products:
   Total out:
                                                                  3,155 mL
                                                                    960 mL
   Urine:
                                                                  3,155 mL
                                                                    960 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,221 mL
                                                                    382 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 327 (327 - 446) mL
   PS : 5 cmH2O
   RR (Set): 8
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 9 cmH2O
   SpO2: 99%
   ABG: 7.38/41/107/21/0
   Ve: 9.5 L/min
   PaO2 / FiO2: 268
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   Expiratory, Diminished: bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   285 K/uL
   9.4 g/dL
   91 mg/dL
   0.8 mg/dL
   21 mEq/L
   4.3 mEq/L
   8 mg/dL
   112 mEq/L
   140 mEq/L
   28.3 %
   11.9 K/uL
        [image002.jpg]
                             [**2166-1-22**]  11:32 AM
                             [**2166-1-22**]  01:16 PM
                             [**2166-1-22**]  04:11 PM
                             [**2166-1-22**]  08:51 PM
                             [**2166-1-22**]  09:06 PM
                             [**2166-1-23**]  03:20 AM
                             [**2166-1-23**]  09:51 AM
                             [**2166-1-23**]  02:39 PM
                             [**2166-1-24**]  12:36 AM
                             [**2166-1-24**]  04:03 AM
   WBC
   12.5
   13.1
   11.9
   Hct
   28.1
   26.9
   28.3
   Plt
   300
   287
   285
   Cr
   0.6
   0.8
   0.8
   0.8
   TCO2
   29
   33
   35
   37
   29
   25
   Glucose
   127
   134
   110
   91
   Other labs: PT / PTT / INR:13.1/27.1/1.1, CK / CKMB /
   Troponin-T:42//<0.01, ALT / AST:[**11-16**], Alk Phos / T Bili:83/0.3, Lactic
   Acid:0.5 mmol/L, LDH:126 IU/L, Ca++:8.4 mg/dL, Mg++:1.6 mg/dL, PO4:2.1
   mg/dL
   Imaging: [**1-23**] AM CXR: The ET tube tip is approximately 5 cm above the
   carina, slightly impinging the left tracheal wall. There is no change
   in the position of the NG tube and two central venous lines. The
   cardiomediastinal silhouette is stable. There is slight improvement in
   the basal aeration in particular on the left. There is still present
   bibasal atelectasis. No appreciable pleural effusion is noted.  Partial
   atelectasis of right middle lobe has developed in the interim.
   [**1-23**] PM CXR: Report pending
   [**1-22**] Renal U/S: No evidence of stones, masses or hydronephrosis.
   Microbiology: [**1-23**] Mini-BAL: 3+ PMNs, no microorganisms
   [**1-23**] Endotracheal sputum:>25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD): GPC . IN PAIRS, CHAINS, AND CLUSTERS.
   [**1-22**] BCx: Pending x2
   [**1-22**] UCx: Negative
   Assessment and Plan
   43 year old male with schizophrenia, HTN, DM who presents with
   hypotension, ARF and lithium toxicity
   .
   # Lithium toxicity: S/p prolonged HD yesterday for lithium clearance.
   Levels trended down to within normal limits x 2.
   - Monitor for signs of lithium toxicity including nausea, vomiting,
   diarrhea and hypotension
   - Continue to follow lithium levels to monitor for rebound toxicity as
   intra/extracellular levels equilibrate but will decrease frequency to
   [**Hospital1 **]
   - Monitor serum sodium, for DI
   - Continue IVF per Toxicology recommendations (consider decreasing rate
   to 150cc/hr given ?mild volume overload overnight)
 will ask Tox re:
   duration of IVF fluids
   # Acute renal failure: S/p HD yesterday, with renal function
   significantly improved. Most likely prerenal volume depletion resulted
   in acute renal failure and predisposed patient to lithium nephritis.
   FeNa 1.3% FeUrea 24%, c/w perfusion-related kidney injury. U/A not c/w
   ATN, no eosinophils to suggest AIN. U/S negative for obstructive
   uropathy.
   - Further HD sessions PRN depending on lithium levels (checking [**Hospital1 **],
   have been stable 0.8-0.9)
   - Trend lytes, lithium level and creatinine closely
   - Hold all diuretics, ACE (home meds)
   .
   # Fever: Temp to 100.6 overnight. CXR concerning for retrocardiac
   opacity, potentially PNA. Also concern for ongoing viral process given
   GI symptoms. New leukocytosis this morning
   - Culture blood, urine, sputum; follow-up outstanding cultures
   - Empiric vanco & cefepime (day 1 = [**1-23**]) for VAP
 started
   Ciprofloxacin ysterday for broader Pseudomonas coverage. If cultures
   negative by [**1-27**], will narrow coverage.
   - Daily CXR
   -
   .
   # Nausea, vomiting: Could be gastroenteritis versus lithium toxicity.
   - Monitor symptoms now that lithium dialyzed
   - Replete volume as needed
   .
   # Hypotension: Most likely secondary to volume depletion and lithium
   toxicity. Temporarily on phenylephrine two days ago during HD, but off
   over 24 hours. Blood pressures have been stable.
   - Monitor BP
   - Hold outpt BP meds, detrol
 may consider restarting later today in
   setting of stable renal function
   .
   # Schizophrenia: Most likely lithium toxicity secondary to ARF and not
   purposeful overdose.
   - Hold Clozaril, Benztropine, Haldol per Psych recs
 but will touch
   base with them early this morning as paable renal functionte to
   150cc/hr given ?mild volume overload overnight)
   - Follow up on Psych recs: will likely restart Clozaril
   .
   # Diabetes: Hold metformin.
   - Insulin sliding scale when in house.
   .
   # Urinary Incontinence: Hold detrol while hypotensive.
   .
   # Hyperlipidemia: Holding Lipitor until LFTs normal. Normal today so
   can consider restarting when can take PO.
   .
   # FEN: electrolytes repletion per renal, NPO
   # Prophylaxis: Subcutaneous heparin
   # Access: Left IJ, R IJ HD line, radial a-line, PIV x2
   # Communication: Family (contact information on white board in room)
   # Code:  Full - presumed.
   # Disposition: ICU pending clinical improvement
 possible extubation
   today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2166-1-21**] 07:58 PM
   18 Gauge - [**2166-1-21**] 08:00 PM
   Dialysis Catheter - [**2166-1-21**] 08:27 PM
   Arterial Line - [**2166-1-21**] 09:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2166-01-25 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2166-1-24**] 10:15 PM
 MULTI LUMEN - STOP [**2166-1-25**] 03:51 AM
   - vomited x 2 this morning
   History obtained from Patient
   Patient unable to provide history: Not engaging in conversation
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2166-1-24**] 07:42 PM
   Cefipime - [**2166-1-25**] 03:52 AM
   Ciprofloxacin - [**2166-1-25**] 06:38 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2166-1-25**] 12:58 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-1-25**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**67**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.2
C (99
   HR: 96 (91 - 103) bpm
   BP: 135/71(87) {129/66(82) - 143/86(94)} mmHg
   RR: 23 (19 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 131.1 kg (admission): 125.5 kg
   Height: 72 Inch
    CVP: 17 (5 - 20)mmHg
   Total In:
                                                                  4,214 mL
                                                                    412 mL
   PO:
                                                                    240 mL
   TF:
   IVF:
                                                                  3,974 mL
                                                                    412 mL
   Blood products:
   Total out:
                                                                  2,995 mL
                                                                    815 mL
   Urine:
                                                                  2,995 mL
                                                                    315 mL
   NG:
                                                                    500 mL
   Stool:
   Drains:
   Balance:
                                                                  1,219 mL
                                                                   -403 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///21/
   Physical Examination
   General Appearance: No acute distress, Speaking softly &
   unintelligibly, not making eye contact
   [**Name (NI) **], Ears, Nose, Throat: [**Name (NI) 4300**]
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, Seems to be responding to internal stimuli
   Labs / Radiology
   362 K/uL
   10.0 g/dL
   100 mg/dL
   0.7 mg/dL
   21 mEq/L
   4.4 mEq/L
   9 mg/dL
   115 mEq/L
   144 mEq/L
   31.3 %
   10.5 K/uL
        [image002.jpg]
                             [**2166-1-22**]  01:16 PM
                             [**2166-1-22**]  04:11 PM
                             [**2166-1-22**]  08:51 PM
                             [**2166-1-22**]  09:06 PM
                             [**2166-1-23**]  03:20 AM
                             [**2166-1-23**]  09:51 AM
                             [**2166-1-23**]  02:39 PM
                             [**2166-1-24**]  12:36 AM
                             [**2166-1-24**]  04:03 AM
                             [**2166-1-25**]  06:17 AM
   WBC
   12.5
   13.1
   11.9
   10.5
   Hct
   28.1
   26.9
   28.3
   31.3
   Plt
   300
   287
   285
   362
   Cr
   0.6
   0.8
   0.8
   0.8
   0.7
   TCO2
   33
   35
   37
   29
   25
   Glucose
   127
   134
   110
   91
   100
   Other labs: PT / PTT / INR:13.1/27.1/1.1, CK / CKMB /
   Troponin-T:42//<0.01, ALT / AST:[**11-16**], Alk Phos / T Bili:83/0.3, Lactic
   Acid:0.5 mmol/L, LDH:126 IU/L, Ca++:9.1 mg/dL, Mg++:1.6 mg/dL, PO4:2.4
   mg/dL
   Imaging: [**1-24**] CXR: Pending
   Microbiology: [**1-22**] UCx: Negative
   [**1-22**] BCx: NGTD
   [**1-22**] Sputum: GS >25 PMNs and <10 epithelial cells/100X field. 2+
   MULTIPLE ORGANISMS C/W OROPHARYNGEAL FLORA. Culture: Pending
   [**1-23**] Sputum: GS >25 PMNs and <10 epithelial cells/100X field. 2+   GRAM
   POSITIVE COCCI. IN PAIRS, CHAINS, AND CLUSTERS. Culture: Pending
   [**1-23**] Mini-BAL:  GS 3+  PMNs. NO MICROORGANISMS SEEN. Culture pending
   Assessment and Plan
   43 year old male with schizophrenia, HTN, DM who presents with
   hypotension, ARF and lithium toxicity
   .
   # Lithium toxicity: S/p prolonged HD yesterday for lithium clearance.
   Levels trended down to within normal limits x 2.
   - Monitor for signs of lithium toxicity including nausea, vomiting,
   diarrhea and hypotension
   - Continue to follow lithium levels to monitor for rebound toxicity as
   intra/extracellular levels equilibrate but will decrease frequency to
   [**Hospital1 **]
   - Monitor serum sodium, for DI
   - Continue IVF per Toxicology recommendations (consider decreasing rate
   to 150cc/hr given ?mild volume overload overnight)
 will ask Tox re:
   duration of IVF fluids
   # Acute renal failure: S/p HD yesterday, with renal function
   significantly improved. Most likely prerenal volume depletion resulted
   in acute renal failure and predisposed patient to lithium nephritis.
   FeNa 1.3% FeUrea 24%, c/w perfusion-related kidney injury. U/A not c/w
   ATN, no eosinophils to suggest AIN. U/S negative for obstructive
   uropathy.
   - Further HD sessions PRN depending on lithium levels (checking [**Hospital1 **],
   have been stable 0.8-0.9)
   - Trend lytes, lithium level and creatinine closely
   - Hold all diuretics, ACE (home meds)
   .
   # Fever: Temp to 100.6 overnight. CXR concerning for retrocardiac
   opacity, potentially PNA. Also concern for ongoing viral process given
   GI symptoms. New leukocytosis this morning
   - Culture blood, urine, sputum; follow-up outstanding cultures
   - Empiric vanco & cefepime (day 1 = [**1-23**]) for VAP
 started
   Ciprofloxacin ysterday for broader Pseudomonas coverage. If cultures
   negative by [**1-27**], will narrow coverage.
   - Daily CXR
   .
   # Nausea, vomiting: Could be gastroenteritis versus lithium toxicity.
   - Monitor symptoms now that lithium dialyzed
   - Replete volume as needed
   .
   # Hypotension: Most likely secondary to volume depletion and lithium
   toxicity. Temporarily on phenylephrine two days ago during HD, but off
   over 24 hours. Blood pressures have been stable.
   - Monitor BP
   - Hold outpt BP meds, detrol
 may consider restarting later today in
   setting of stable renal function
   .
   # Schizophrenia: Most likely lithium toxicity secondary to ARF and not
   purposeful overdose.
   - Hold Clozaril, Benztropine, Haldol per Psych recs
 but will touch
   base with them early this morning as paable renal functionte to
   150cc/hr given ?mild volume overload overnight)
   - Follow up on Psych recs: will likely restart Clozaril
   .
   # Diabetes: Hold metformin.
   - Insulin sliding scale when in house.
   .
   # Urinary Incontinence: Hold detrol while hypotensive.
   .
   # Hyperlipidemia: Holding Lipitor until LFTs normal. Normal today so
   can consider restarting when can take PO.
   .
   # FEN: electrolytes repletion per renal, NPO
   # Prophylaxis: Subcutaneous heparin
   # Access: Left IJ, R IJ HD line, radial a-line, PIV x2
   # Communication: Family (contact information on white board in room)
   # Code:  Full - presumed.
   # Disposition: ICU pending clinical improvement
 possible extubation
   today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2166-1-21**] 08:00 PM
   Dialysis Catheter - [**2166-1-21**] 08:27 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: